US04410528
Reference Example 4: 1-Benzyl-4-[N-(2-nitrophenyl)-N-acetylamino]-piperidine hydrobromide:
In this reference example, 1.67 g of 1-benzyl-4-(2-nitroanilino)-piperidine hydrochloride is suspended in 30 ml of dioxane. The suspension is mixed with 13 ml of acetyl bromide and refluxed for 4 hours. The resultant reaction mixture is cooled and then the deposited crystals are separated by filtration. The crystals are washed with ether and then dried to obtain 1.96 g of crude crystals. The crude crystals are recrystallized from 25 ml of ethanol to obtain 1.33 g of the desired product.

reactant | 1-benzyl-4-(2-nitroanilino)-piperidine hydrochloride | 1.67 g | Cl.C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C=CC=C1)[N+](=O)[O-]
reactant | acetyl bromide | 13 ml | C(C)(=O)Br | C2H3BrO
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 1-Benzyl-4-[N-(2-nitrophenyl)-N-acetylamino]-piperidine hydrobromide | 1.33 g | Br.C(C1=CC=CC=C1)N1CCC(CC1)N(C(C)=O)C1=C(C=CC=C1)[N+](=O)[O-] | InChI=1S/C20H23N3O3.BrH/c1-16(24)22(19-9-5-6-10-20(19)23(25)26)18-11-13-21(14-12-18)15-17-7-3-2-4-8-17;/h2-10,18H,11-15H2,1H3;1H
